US07427683B2
b) 3-Chloro-2-piperidin-1-yl-phenylamine
Using a procedure similar to Example 3, step (c), 1-(2-chloro-6-nitro-phenyl)-piperidine (79 mg, 0.32 mmol, as prepared in the previous step) was stirred with 44 mg of 5% Pd—C under H2 for 1 h 30 min to afford 54 mg (80%) of the title compound, contaminated with the des-chloro derivative, which was used immediately without further purification. Mass spectrum (ESI, m/z): Calcd. for C11H15ClN2, 211.0 (M+H), found 211.1.

reactant | 1-(2-chloro-6-nitro-phenyl)-piperidine | ClC1=C(C(=CC=C1)[N+](=O)[O-])N1CCCCC1 | C11H13ClN2O2
catalyst | Pd—C | 44 mg | [Pd] | Pd
product | 3-Chloro-2-piperidin-1-yl-phenylamine | 54 mg, 80% | ClC=1C(=C(C=CC1)N)N1CCCCC1 | C11H15ClN2
